US07285548B2
3-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1-methyl-1-(4-trifluoromethyl-cyclohexyl)-urea
4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine was first reacted with phenyl chloroformate as described for (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester in WO01/97786 and then with methyl-(4-trifluoromethyl-cyclohexyl)-amine. Usual workup, flash-chromatography (silica, eluent dichloromethane/methanol) and final evaporation of the solvent afforded the title compound as white crystals (96% yield), mp 157-167° C. MS: m/e=473(M+H+). Following the general method of example 1 the compounds of examples 2 to 12 were prepared.

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC)=O | C22H18N2O3S
reactant | methyl-(4-trifluoromethyl-cyclohexyl)-amine | CNC1CCC(CC1)C(F)(F)F | C8H14F3N
product | 3-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1-methyl-1-(4-trifluoromethyl-cyclohexyl)-urea | 96% yield | COC1=CC=C(C2=C1N=C(S2)NC(N(C2CCC(CC2)C(F)(F)F)C)=O)N2CCOCC2 | C21H27F3N4O3S
